US09169187B2
To crude crystals (127 mg) of ethyl{(4-methoxy-phenyl)-[4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-phenyl]-methyl}-carbamate were added toluene (2 mL), ethanol (2 mL) and sodium hydroxide (21 mg, 525 μmol) and the mixture was stirred at 100° C. for 2 hr. The reaction mixture was cooled to room temperature, toluene (2 mL) was added, and washed with water (4 mL×3 times) to allow partitioning. The organic layer was evaporated, and the residue was crystallized from acetonitrile (5 mL) to give {(4-methoxy-phenyl)-[4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-phenyl]-methyl}-amine (123 mg, 100% vs —OH form).

reactant | ethyl{(4-methoxy-phenyl)-[4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-phenyl]-methyl}-carbamate | C(C)OC(NC(C1=CC=C(C=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)OC)=O | C78H139NO7
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 525 μmol, 21 mg | [OH-].[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | {(4-methoxy-phenyl)-[4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-phenyl]-methyl}-amine | 123 mg, 100% | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)N | C75H135NO5
